.SUBCKT mmbd717lt1 1 2 3
d1 3 1 halfmmbd717lt1
d2 3 2 halfmmbd717lt1
.ENDS mmbd717lt1
*
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb  7, 03
* MODEL FORMAT: PSpice
.MODEL Dhalfmmbd717lt1 d
+IS=1.28463e-08 RS=3.25662 N=1.04623 EG=0.648638
+XTI=1.86613 BV=20 IBV=1e-05 CJO=2.45439e-12
+VJ=0.4 M=0.3422 FC=0.5 TT=6.49213e-09
+KF=0 AF=1


