.SUBCKT mmbta14lt1 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 14, 98
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 124.167
D1 3 1 dmodel
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10.0224 N=1.00022 XTI=3.00022
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.68152e-13 BF=711.588 NF=1.16301 VAF=30
+IKF=0.00140481 ISE=1.50433e-12 NE=1.85694 BR=71.1588
+NR=1.00707 VAR=299.999 IKR=0.0140481 ISC=2.11553e-16
+NC=1.98392 RB=2.98293 IRB=0.201886 RBM=0.100669
+RE=0.062617 RC=1.20438 XTB=0 XTI=3.99023 EG=1.05
+CJE=1.31191e-11 VJE=0.95 MJE=0.380189 TF=1e-09
+XTF=1 VTF=0.6 ITF=1 CJC=1.50624e-11
+VJC=0.400258 MJC=0.358413 XCJC=0.900077 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.68152e-13 BF=711.588 NF=1.16301 VAF=30
+IKF=0.00140481 ISE=1.50433e-12 NE=1.85694 BR=71.1588
+NR=1.00707 VAR=299.999 IKR=0.0140481 ISC=2.11553e-16
+NC=1.98392 RB=2.98293 IRB=0.201886 RBM=0.100669
+RE=0.062617 RC=1.20438 XTB=0 XTI=3.99023 EG=1.05
+CJE=1.31191e-11 VJE=0.95 MJE=0.380189 TF=1e-09
+XTF=1 VTF=0.6 ITF=1 CJC=0
+VJC=0.400258 MJC=0.358413 XCJC=0.900077 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS mmbta14lt1
