.SUBCKT mmbta63lt1 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 14, 98
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 64.3815
D1 1 3 dmodel
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=0 N=0.5 XTI=0.5
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.26184e-14 BF=309.375 NF=1.06922 VAF=30
+IKF=0.00211028 ISE=2.71282e-14 NE=1.53483 BR=3.75284
+NR=0.958599 VAR=10 IKR=1e-05 ISC=2.71282e-14
+NC=4 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.0001 RC=99.3883 XTB=1.00315 XTI=4 EG=1.206
+CJE=3e-12 VJE=0.75 MJE=0.33 TF=1e-11
+XTF=1 VTF=10 ITF=0.01 CJC=5e-12
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.26184e-14 BF=309.375 NF=1.06922 VAF=30
+IKF=0.00211028 ISE=2.71282e-14 NE=1.53483 BR=3.75284
+NR=0.958599 VAR=10 IKR=1e-05 ISC=2.71282e-14
+NC=4 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.0001 RC=99.3883 XTB=1.00315 XTI=4 EG=1.206
+CJE=3e-12 VJE=0.75 MJE=0.33 TF=1e-11
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS mmbta63lt1
