.SUBCKT mmbv109lt1 1 2
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Mar 11, 03
* Model format: PSpice
d1 1 2 dmod
.model dmod d
+ (IS=3.84362e-11 RS=3.5e-05 N=0.835128 EG=0.6
+ XTI=4 BV=30 IBV=1e-05 TT=1e-06
+ KF=0 AF=1)
gclamp 0 3 1 2 1
rclamp 3 0 1
dclamp 3 0 dclampmod
.model dclampmod d (is=1e-5)
g1 0 4 3 0 1
rdc1 4 0 1e12
L1 4 0 1
gicj 1 2 value={1.50623e-10*v(4)/(PWR((1+abs(v(3))/0.554083),0.888152))}
.ends mmbv109lt1
